US06956047B1
2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(1-ethyl-2-methoxy-propylamino)-6-methyl-nicotinic acid methyl ester
To a solution of 2-(4-chloro-2,6-dimethyl-phenoxy)-4-(1-ethyl-2-hydroxy-propylamino)-6-methyl-nicotinic acid methyl ester (50 mg, 0.123 mmol) in dry THF was added NaH and stirred for 20 min. An excess of Mel was added and the resulting mixture was stirred at rt overnight. The mixture cooled to rt and quenched with water and extracted with ethyl acetate. The organic layer was separated, washed with water, dried over anhydrous sodium sulfate, filtered, and concentrated to dryness to give an oil. The oil was purified through silica gel column chromatography using 20% ethyl acetate in hexane as an eluent to give the title compound as a clear oil. 1H NMR(CDCl3) d 8.20(d, 1H), 7.00(s, 2H), 6.14&6.10(two sets of s, 1H), 3.859s, 3H), 3.47(m, 1H), 3.39&3.37(two set of s, 3H), 2.08(s, 3H), 2.06(s, 6H), 1.75(m, 1H), 1.58(m, 1H), 1.14(t, 3H), 0.95(t, 3H) ppm.

reactant | 2-(4-chloro-2,6-dimethyl-phenoxy)-4-(1-ethyl-2-hydroxy-propylamino)-6-methyl-nicotinic acid methyl ester | 0.123 mmol, 50 mg | COC(C1=C(N=C(C=C1NC(C(C)O)CC)C)OC1=C(C=C(C=C1C)Cl)C)=O | C21H27ClN2O4
reactant | NaH | [H-].[Na+]
reactant | THF | C1CCOC1 | C4H8O
product | 2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(1-ethyl-2-methoxy-propylamino)-6-methyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(C(C)OC)CC)C)OC1=C(C=C(C=C1C)Cl)C)=O | C22H29ClN2O4
